US07388110B2
a) Synthesis of 9,10-dimethylanthracene-2-carboxylic acid
9,10-Dimethyl-2-acetylanthracene (1.2 g) was dissolved in dioxane (24 mL). An aqueous solution of sodium perchlorate (10 mL; effective chlorine concentration: 10 wt %) was then added, followed by reaction under stirring at 85° C. for 8 hours. The reaction mixture was chilled, and then rendered acidic with dilute hydrochloric acid. The resulting precipitate was collected by filtration, washed with a small amount of water, and then dried in vacuo to afford the target compound (1.16 g).

reactant | 9,10-Dimethyl-2-acetylanthracene | 1.2 g | CC=1C2=CC=CC=C2C(=C2C=CC(=CC12)C(C)=O)C | C18H16O
reactant | sodium perchlorate | 10 mL | Cl(=O)(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 24 mL | O1CCOCC1 | C4H8O2
product | 9,10-dimethylanthracene-2-carboxylic acid | 1.16 g | CC=1C2=CC=CC=C2C(=C2C=CC(=CC12)C(=O)O)C | C17H14O2
